US03963732
50 g. Ethyl 2-pyridine-glyoxylate were cautiously added dropwise to a pre-cooled mixture of 100 ml. 85% sulphuric acid and 100 g. phenol, while stirring. The reaction mixture was externally cooled with water and ice to keep it at ambient temperature and to control the exothermic reaction. After stirring for 60 hours, the reaction mixture was poured into ice-water and washed with chloroform. The gum-like precipitate which separated and the aqueous phase were rendered alkaline with ammonium hydroxide and the resulting solution was treated with activated charcoal. After filtration, the solution obtained was adjusted to about pH 7 with diluted sulphuric acid to give a high yield of a crystalline precipitate of ethyl α, α-di(4-hydroxyphenyl)-2-pyridine-acetate. After crystallisation from isopropanol or ethyl acetate, the product was obtained in the form of a colourless, crystalline solid which melted, with decomposition, at 252° - 254°C.

reactant | Ethyl 2-pyridine-glyoxylate | N1=C(C=CC=C1)C(C(=O)OCC)=O | C9H9NO3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | water | O | H2O
product | ethyl α, α-di(4-hydroxyphenyl)-2-pyridine-acetate | OC1=CC=C(C=C1)C(C(=O)OCC)(C1=NC=CC=C1)C1=CC=C(C=C1)O | C21H19NO4
